US06353010B1
4-Methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole-7-carboxylic acid
7-Bromo-4-methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole (480 mg), palladium acetate (34 mg), 1,3-bis(diphenylphosphino)propane (126 mg), triethylamine (0.21 ml), water (15 ml) and tetrahydrofuran (30 ml) were combined and heated to 90° C. in a Parr apparatus under 1035 kPa (150 psi) of carbon monoxide for 3 days. After cooling to room temperature, the tetrahydrofuran was evaporated in vacuo. The residue was partitioned between ethyl acetate (50 ml) and water (50 ml). The aqueous layer was extracted with ethyl acetate (50 ml). The combined organic extracts were dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with ethyl acetate to yield the title compound as a white solid (190 mg).

reactant | 7-Bromo-4-methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole | 480 mg | BrC1=CC=C(C=2N=C(OC21)C2(OCCO2)C)OC | C12H12BrNO4
reactant | 1,3-bis(diphenylphosphino)propane | 126 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | palladium acetate | 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 15 ml | O | H2O
product | 4-Methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole-7-carboxylic acid | 190 mg | COC1=CC=C(C2=C1N=C(O2)C2(OCCO2)C)C(=O)O | C13H13NO6
